### PR TITLE
update Erdős 730

### PR DESCRIPTION
**Pull request by mo271**
Reflecting the change on the website, adding also the conjecture that all pairs are of the form $(n, n+1)$.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/730.lean [hunk 1]
```diff
@@ -64,6 +61,17 @@ theorem erdos_730.variants.succ_pair_criterion (n : ℕ) (h : 2 < n) :
...
   sorry
 
+
+/--
+An observation by Thomas Bloom: we have $(n, n+1) ∈ S$ if for all primes $p≤n$ and $p=2n+1$
+(if such a prime exists) we have $n ∉ \{\frac{p - 1}{2}, p - 1\} \mod p$.
+-/
+@[category undergraduate]
+theorem erdos_730.variants.sufficient_criterion (n : ℕ) (h : 2 < n) :
+    (∀ p ∈ (Set.Ioc 2 n) ∪ {2 * p - 1}, ∀ [hp : Fact p.Prime],
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/730.lean]:
```suggestion
    (∀ p ∈ (Set.Ioc 2 n) ∪ {2 * n + 1}, ∀ [hp : Fact p.Prime],
```
Should it not be like this?

Comment (callesonne) [reply FormalConjectures/ErdosProblems/730.lean]: Also this seems to be no longer mentioned on the website at all?

Comment (mo271) [reply FormalConjectures/ErdosProblems/730.lean]: I was writing to Thomas Bloom and the site was changed yesterday again, because the observation didn't really make sense. Updated this pull request to reflect the changes. Now all statements should make sense.

File: FormalConjectures/ErdosProblems/730.lean [hunk 2]
```diff
@@ -50,27 +51,8 @@ theorem erdos_730.variants.two_div_forall (n : ℕ) (h : 0 < n) : 2 ∣ (2*n).ch
...
-/--
-Standard heuristics then predict there should be $≫ \frac x {(\log x)^2}$
-many $n ≤ x$ such that $(n, n+1) ∈ S$.
+In every known example $(n, m) ∈ S$, we have $m = n + 1$.
 -/
 @[category research open, AMS 11]
-theorem erdos_730.variants.succ_pair_growth :
-    let C (x : ℝ) : ℝ := (Finset.Icc 0 ⌊x⌋₊ |>.filter fun n => (n, n+1) ∈ S).card
-    Filter.Tendsto (fun (x : ℝ) => x / (x.log^2) / C x) Filter.atTop (𝓝 0) := by
+theorem erdos_730.variants.delta_one (n m : ℕ) : (n, m) ∈ S → m = n + 1 := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/730.lean]: left-of-colon style is preferred
```suggestion
theorem erdos_730.variants.delta_one (n m : ℕ) (h : (n, m) ∈ S) : m = n + 1 := by
```

File: FormalConjectures/ErdosProblems/730.lean [hunk 3]
```diff
@@ -50,27 +51,8 @@ theorem erdos_730.variants.two_div_forall (n : ℕ) (h : 0 < n) : 2 ∣ (2*n).ch
...
-    (n, n+1) ∈ S ↔ ∀ p ∈ Set.Ioc 2 n, ∀ [hp : Fact p.Prime],
-    let kummer_condition: ℕ → Prop := fun n => (p.digits n).Forall (fun m => m ≤ (p - 1) / 2)
-    (kummer_condition n ↔ kummer_condition (n + 1)) := by
-  sorry
-
-open scoped Topology in
-/--
-Standard heuristics then predict there should be $≫ \frac x {(\log x)^2}$
-many $n ≤ x$ such that $(n, n+1) ∈ S$.
+In every known example $(n, m) ∈ S$, we have $m = n + 1$.
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/730.lean:54]: From the website, does this variant not also require the condition that $n < m$? Ditto in the formal version

Comment (mo271) [reply FormalConjectures/ErdosProblems/730.lean:54]: I found it preferable to change the definition of `S`, even though then the statement is a little less closely aligned with the informal version on the website, I think this is simpler.

File: FormalConjectures/ErdosProblems/730.lean [hunk 4]
```diff
@@ -19,21 +19,22 @@ import FormalConjectures.Util.ProblemImports
...
 # Erdős Problem 730
 
-*Reference:* [erdosproblems.com/730](https://www.erdosproblems.com/730)
+*References:*
+  - [erdosproblems.com/730](https://www.erdosproblems.com/730)
+  - [A129515](https://oeis.org/A129515)
 -/
 private abbrev S :=
-  {(n, m) : ℕ × ℕ | n ≠ m ∧ ((2*n).choose n).primeFactors = ((2*m).choose m).primeFactors}
+  {(n, m) : ℕ × ℕ | n < m ∧ ((2*n).choose n).primeFactors = ((2*m).choose m).primeFactors}
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/730.lean:27]: How come this change? On the website it still says `≠`

Comment (callesonne) [reply FormalConjectures/ErdosProblems/730.lean:27]: Ah, I guess it doesn't matter if you are asking for the infinitude of this set, so I don't mind if it makes things simpler.

**Review by callesonne — APPROVED** [review]
LGTM!
